2149-04-08 07:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EEG - At [**2149-4-7**] 05:00 PM
   EEG completed as ordered
 received 100mg IV diazepam 24 hour period
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2149-4-8**] 06:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-4-8**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.5
C (97.7
   HR: 135 (102 - 151) bpm
   BP: 138/80(161) {138/70(121) - 208/182(186)} mmHg
   RR: 24 (14 - 34) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
                  Total In:
                                                                  1,000 mL
                  PO:
                  TF:
   IVF:
                                                                  1,000 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                    200 mL
   Urine:
                                                                    500 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    500 mL
                                                                   -200 mL
   Respiratory support
   SpO2: 100%
   ABG: ////
   Physical Examination
   General Appearance: Anxious, Diaphoretic
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, Cyanosis
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Oriented (to): person, place, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   51 K/uL
   12.4 g/dL
   88 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.9 mEq/L
   8 mg/dL
   102 mEq/L
   138 mEq/L
   36.0 %
   3.8 K/uL
        [image002.jpg]
                             [**2149-4-6**]  05:30 AM
   WBC
   3.8
   Hct
   36.0
   Plt
   51
   Cr
   0.8
   Glucose
   88
   Other labs: ALT / AST:137/320, Alk Phos / T Bili:127/1.6,
   Differential-Neuts:71.7 %, Lymph:23.0 %, Mono:4.0 %, Eos:1.0 %,
   Albumin:4.7 g/dL, LDH:371 IU/L, Ca++:9.3 mg/dL, Mg++:1.6 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
   45 yom with h/o etoh abuse and seizures admitted after a seizure,
   initially stabilzed in the ICU, called out to the floor, where became
   increasingly delirious.
   .
   # Delirium - given risk factors, ie, chronic appearing subdural
   hematomas on CT head.
   - repeat CT head today given more stable
   - f/u neuro recs
   - f/u EEG result
   .
   # Etoh abuse - Had been stabilized earlier in hospital course,
   however, increasingly delirious, tachycardic, and diaphoretic, c/w
   withdrawal.
   - required 100mg IV diazepam overnight
   - space out to 10mg IV diazepam Q4H with Q2H diazepam 10mg IV
   - thiamine
   - folate
   .
   # Leukopenia - unclear etiology.  No other focal signs of infection.
   Continue to monitor.
    .
   # Thrombocytopenia - [**Month (only) 51**] be from chronic alcohol use and HSM, although
   spleen difficult to palpate on my exam. Will check LFTs and if elevated
   would get abdominal imaging to evaluate further.
   - stable
   .
   # Elevated LFTs - immunized against Hep B, no evidence active infection
    .
   # FEN
 NPO, banana bag and then D51/2NS at 150cc/hr
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2149-4-7**] 11:00 AM
   18 Gauge - [**2149-4-8**] 02:00 AM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer:H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition:ICU

2149-04-08 10:05:00 Physician Attending Progress Note
Chief Complaint: etoh withdrawal, dts
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   45 yo M w/chronic EtOH abuse and h/o EtOH w/d szs admitted post sz, now
   transferred back to MICU w/acute agitation/delirium, tachycardia, and
   tremor concerning for EtOH withdrawal/DTs.
   24 Hour Events:
 EEG - At [**2149-4-7**] 05:00 PM
   EEG completed as ordered
 CALLED OUT
   recieved 100 mg valium over 24 hrs by ciwa
   eeg yesterday, result pending
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2149-4-8**] 06:13 AM
   Famotidine (Pepcid) - [**2149-4-8**] 08:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-4-8**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 120 (102 - 151) bpm
   BP: 150/97(161) {138/70(121) - 208/182(186)} mmHg
   RR: 20 (14 - 34) insp/min
   SpO2: 100% (RA)
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  1,000 mL
                                                                     50 mL
   PO:
             TF:
   IVF:
                                                                  1,000 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                  1,100 mL
   Urine:
                                                                    500 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    500 mL
                                                                 -1,050 mL
   Respiratory support
   SpO2: 100% (RA)
   ABG: ////
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): confused, Movement: Not assessed, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   14.6 g/dL
   87 K/uL
   88 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.9 mEq/L
   8 mg/dL
   102 mEq/L
   138 mEq/L
   42.8 %
   4.6 K/uL
        [image002.jpg]
                             [**2149-4-6**]  05:30 AM
                             [**2149-4-8**]  08:18 AM
   WBC
   3.8
   4.6
   Hct
   36.0
   42.8
   Plt
   51
   87
   Cr
   0.8
   Glucose
   88
   Other labs: ALT / AST:137/320, Alk Phos / T Bili:127/1.6,
   Differential-Neuts:71.7 %, Lymph:23.0 %, Mono:4.0 %, Eos:1.0 %,
   Albumin:4.7 g/dL, LDH:371 IU/L, Ca++:9.3 mg/dL, Mg++:1.6 mg/dL, PO4:2.3
   mg/dL
   Imaging: no new cxr
   eeg pending
   Microbiology: no new results
   Assessment and Plan
   45 yo M w/chronic EtOH abuse and h/o EtOH w/d szs admitted post sz, now
   transferred back to MICU w/acute agitation/delirium, tachycardia, and
   tremor concerning for EtOH withdrawal/DTs.
   #EtOH withdrawal:
   -valium per CIWA scale Q 1 hrs prn with standing 10 mg Q 4
   -Banana bag (thiamine folate)
   #Delirium:
   Likely [**12-28**] EtOH, but initial head CT showed ? of chronic subdural,
   given thrombocytopenia concern for bleeding.
    Once pt stablized from an agitation standpoint, will repeat head
   CT--should tolerate today.
   f/u eeg.  Appreciate neuro input.
   #Transaminitis:
   Likely related to EtOH, but hepatitis checked
   #Pancytopenia:
   Likely [**12-28**] chronic EtOH abuse (macrocytosis, low retic count).  Counts
   have been stable and now appears hemoconcentrated by h/h and plts.
   hydrate.
   #FEN:
   NPO for now.  maintenance IVF
   Aspiration risk, keep HOB elevated
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2149-4-7**] 11:00 AM
   18 Gauge - [**2149-4-8**] 02:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40  minutes

2149-04-09 07:10:00 Physician Resident Progress Note
Chief Complaint: ETOH withdrawal
   24 Hour Events:
   - EEG: Non-focal
   - CT Head: b/l patchy hypodensities in occipital region concerning for
   PRES or sinus thrombosis, extraaxial fluid collections slightly larger
   - no acute subdurals.
   - Neuro curbsided - recommended MRI/MRA - and will see patient in AM.
   No AED's at this time.
   - Started on hydralazine overnight for BP control - increased to 20mg
   IV with no improvement.
   - Agitated overnight, persistently hypertensive increased diazepam to
   10mg IV q2H with CIWA, with additional diazepam boluses.  Not getting
   CIWA scale overnight as PO?, this AM labile BP to 170's when agitated -
   kicking and screaming.  Increased diazepam to 15mg IV q2h, and changed
   CIWA scale to IV.
   - To agitated to start labetalol gtt for BP control.
   - Unable to obtain MRI as required 4 point restraints.
   - required 85mg diazepam b/w PO and IV
   - last 12 hours has received 45mg IV diazepam
   - CIWA [**7-10**] throughout day, then 14- 28 night and this AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2149-4-8**] 07:43 PM
   Diazepam (Valium) - [**2149-4-8**] 11:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-4-9**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 35.2
C (95.3
   HR: 138 (93 - 145) bpm
   BP: 156/105(115) {136/97(107) - 205/130(139)} mmHg
   RR: 26 (10 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
                  Total In:
                                                                  2,270 mL
                  PO:
                                                                    170 mL
                  TF:
   IVF:
                                                                  2,100 mL
   Blood products:
   Total out:
                                                                  1,740 mL
                                                                    250 mL
   Urine:
                                                                  1,740 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    530 mL
                                                                   -250 mL
   Respiratory support
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   General Appearance: Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Oriented (to): x3 this AM to person, place year, month, Movement: Non
   -purposeful, Sedated, Tone: Normal, 5/5 strength upper and lower ext,
   reflexes 2+, unable to assess cerebellar fxn
   Labs / Radiology
   87 K/uL
   14.6 g/dL
   97 mg/dL
   0.7 mg/dL
   19 mEq/L
   4.0 mEq/L
   13 mg/dL
   103 mEq/L
   135 mEq/L
   42.8 %
   4.6 K/uL
        [image002.jpg]
                             [**2149-4-6**]  05:30 AM
                             [**2149-4-8**]  08:18 AM
                             [**2149-4-8**]  06:22 PM
   WBC
   3.8
   4.6
   Hct
   36.0
   42.8
   Plt
   51
   87
   Cr
   0.8
   0.8
   0.7
   Glucose
   88
   94
   97
   Other labs: PT / PTT / INR:12.3/21.1/1.0, ALT / AST:104/128, Alk Phos /
   T Bili:114/1.3, Differential-Neuts:71.7 %, Lymph:23.0 %, Mono:4.0 %,
   Eos:1.0 %, Albumin:4.7 g/dL, LDH:371 IU/L, Ca++:8.9 mg/dL, Mg++:1.6
   mg/dL, PO4:3.4 mg/dL
   IMAGING:
   1. New patchy hypodensities within the subcortical white matter of the
   occipital lobes as well as smaller hypodensities within the high
   parietal and
   frontal lobes. These findings are concerning for PRES (posterior
   reversible
   encephalopathy syndrome). Alternatively, multiple infarctions related
   to
   venous sinus thrombosis are possible and could be excluded by an MRV.
   2. Slightly more prominent extraaxial fluid collections which may
   relate to
   altered CSF flow dynamics. No evidence of acute subdural hemorrhage.
   EEG: no seizure activity
   MICRO: No data
   Assessment and Plan
   45 yom with h/o etoh abuse and seizures admitted after a seizure,
   initially stabilzed in the ICU, called out to the floor, where became
   increasingly delirious.
   .
    # Etoh abuse - Had been stabilized earlier in hospital course,
   however, increasingly delirious, tachycardic, and diaphoretic, c/w
   withdrawal. Increased diazepam this AM with good response.
   - required 100mg IV diazepam overnight
   - continue with diazepam 15mg IV q2h standing, and 10mg IV q2h prn
   throughout the morning, if patient remains calm this afternoon, may
   switch to oral standing regimen, with IV diazepam for breakthrough
   - thiamine
   - folate
   .
   # Delirium - given risk factors, ie, chronic appearing subdural
   hematomas on CT head.
   - repeat CT head shows ? PRES syndrome possibly related to changes in
   blood pressure vs. thrombosis
   - cx urine, blood, sputum if possible, CXR today
   - f/u neuro recs, MRI today to evaluate for thrombosis
   - EEG result unremarkable
    .
   # HTN
   - if concern for PRES would want to control BP, continue with
   hydralazine
   # Thrombocytopenia - [**Month (only) 51**] be from chronic alcohol use and HSM, although
   spleen difficult to palpate on my exam. Will check LFTs and if elevated
   would get abdominal imaging to evaluate further.
   - stable
   .
   # Elevated LFTs - immunized against Hep B, no evidence active infection
   -          trending downwards
   -          consider abdominal ultrasound, no ascites on exam
    .
   # FEN
 NPO, banana bag and then D51/2NS at 150cc/hr
   -          will trial with sips with careful monitoring for aspiration.
   -          d/c potassium in IV given phlebitis
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2149-4-8**] 02:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: ICU

2149-04-09 10:57:00 Physician Attending Progress Note
Chief Complaint: etoh withdrawal, delirium
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 45 yo M w/chronic EtOH abuse and h/o EtOH w/d szs admitted with sz
   and EtOH withdrawal
   24 Hour Events:
   eeg showed no focal sz activity
   ct head--hypodensities concerning for pres, ? sinus thrombosis
       scheduled for MRI
   remains agitated
     85 mg Po IV diazepam
     last 12 hrs 100 mg IV (IV leaking)
     changed to Q 2 hrs 15 standing, 10 Q 2 prn ciwa > 10
   persistently hypertensive (130-140/ 105--1 episode w/ increase to 200
   with agitation)
   hydral given with good BP response
   History obtained from Medical records, house staff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2149-4-9**] 08:00 AM
   Diazepam (Valium) - [**2149-4-9**] 08:45 AM
   Famotidine (Pepcid) - [**2149-4-9**] 09:30 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-4-9**] 10:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3 (100.0)
   Tcurrent: 37.4
C (99.3
   HR: 120 (93 - 145) bpm
   BP: 93/60(67) {93/60(67) - 205/130(139)} mmHg
   RR: 24 (13 - 27) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  2,270 mL
                                                                    158 mL
   PO:
                                                                    170 mL
             TF:
   IVF:
                                                                  2,100 mL
                                                                    158 mL
   Blood products:
   Total out:
                                                                  1,740 mL
                                                                    250 mL
   Urine:
                                                                  1,740 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    530 mL
                                                                    -93 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Thin,
   calmer
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, Clubbing
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): to self, hospital ([**Hospital1 403**]), Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   15.0 g/dL
   116 K/uL
   90 mg/dL
   0.9 mg/dL
   20 mEq/L
   3.2 mEq/L
   11 mg/dL
   101 mEq/L
   138 mEq/L
   44.0 %
   4.9 K/uL
        [image002.jpg]
                             [**2149-4-6**]  05:30 AM
                             [**2149-4-8**]  08:18 AM
                             [**2149-4-8**]  06:22 PM
                             [**2149-4-9**]  08:03 AM
   WBC
   3.8
   4.6
   4.9
   Hct
   36.0
   42.8
   44.0
   Plt
   51
   87
   116
   Cr
   0.8
   0.8
   0.7
   0.9
   Glucose
   88
   94
   97
   90
   Other labs: PT / PTT / INR:12.3/21.1/1.0, ALT / AST:93/122, Alk Phos /
   T Bili:119/1.6 (1.3), Differential-Neuts:71.7 %, Lymph:23.0 %, Mono:4.0
   %, Eos:1.0 %, Albumin:5.0 g/dL, LDH:406 IU/L, Ca++:9.7 mg/dL, Mg++:1.6
   mg/dL, PO4:3.4 mg/dL
   Imaging: HEAD CT
   no am cxr
   Microbiology: no data
   Assessment and Plan
   45 yo M w/chronic EtOH abuse and h/o EtOH w/d szs in ICU with etoh
   withdrawal/delirium
   # EtOH withdrawal/delirium
   EEG without evidence of sz focus
   Increased agitation overnight with increasing valium requirements,  but
   ? of IV leaking
   Now calmer with adjusted dosing and new PIV
>15 Q 2 + 10 Q 2 prn
   (continue IV and transition to PO valium as agitation stabilized)
   Continue Thiamine, folate, mvi
   # HTN
[**12-28**] etoh withdrawal but also with possible essential htn
   ? Pres on head CT
       Prn hydral for BP control in addition to diazepam for withdrawal
   # ? sinus thrombosis on head ct, not evident on initial ct head at time
   of admit
   MRI brain today to further eval
   Appreciate neuro input
   #Low grade temp, wbc ct remains stable
   check u/a and cx,
   blood cx if spikes
   #Transaminitis:
   Likely related to EtOH
   trending down, follow
   #Pancytopenia:
   Likely [**12-28**] chronic EtOH abuse (macrocytosis, low retic count).
   Counts remain stable to improved
   #FEN:
   With improved cooperation/agitation will advance to clears with
   supervision
   Continue maintenance IVF
   Aspiration risk, keep HOB elevated
   ICU Care
   Nutrition:  Clears with supervision
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2149-4-9**] 08:46 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2149-04-10 07:48:00 Physician Resident Progress Note
Chief Complaint: ETOH withdrawal
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2149-4-9**] 03:45 PM
   Attempted w/ a total of 30 mg valium iv given while in MRI in an effort
   to obtain [**Location (un) **]. However, unable to obtain MRI d/t severe agitation
   and uncooperativeness of pt. MICE intern/resident made aware.  Team
   will f/u w/ neuro.
 URINE CULTURE - At [**2149-4-9**] 06:45 PM
 CALLED OUT
   MRI suboptimal but performed
   150mg IV standing
   60mg IV breakthrough
   much more calm, tried getting out of bed to go to restroom this
   morning, no trauma
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2149-4-9**] 04:00 PM
   Famotidine (Pepcid) - [**2149-4-9**] 07:39 PM
   Diazepam (Valium) - [**2149-4-10**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-4-10**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 35.9
C (96.6
   HR: 99 (83 - 135) bpm
   BP: 142/100(108) {93/50(67) - 200/168(176)} mmHg
   RR: 20 (17 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
                  Total In:
                                                                  2,788 mL
                  PO:
                  TF:
   IVF:
                                                                  2,788 mL
   Blood products:
   Total out:
                                                                    845 mL
                                                                    300 mL
   Urine:
                                                                    845 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,943 mL
                                                                   -300 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   General Appearance: Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Oriented (to): x3, Movement: Purposeful, Sedated, Tone: Normal, [**3-31**]
   strength
   Labs / Radiology
   116 K/uL
   15.0 g/dL
   90 mg/dL
   0.9 mg/dL
   20 mEq/L
   3.2 mEq/L
   11 mg/dL
   101 mEq/L
   138 mEq/L
   44.0 %
   4.9 K/uL
        [image002.jpg]
                             [**2149-4-6**]  05:30 AM
                             [**2149-4-8**]  08:18 AM
                             [**2149-4-8**]  06:22 PM
                             [**2149-4-9**]  08:03 AM
   WBC
   3.8
   4.6
   4.9
   Hct
   36.0
   42.8
   44.0
   Plt
   51
   87
   116
   Cr
   0.8
   0.8
   0.7
   0.9
   Glucose
   88
   94
   97
   90
   Other labs: PT / PTT / INR:12.3/21.1/1.0, ALT / AST:93/122, Alk Phos /
   T Bili:119/1.6, Differential-Neuts:71.7 %, Lymph:23.0 %, Mono:4.0 %,
   Eos:1.0 %, Albumin:5.0 g/dL, LDH:406 IU/L, Ca++:9.7 mg/dL, Mg++:1.6
   mg/dL, PO4:3.4 mg/dL
   Imaging: 1. Very limited study, with no T2-weighted images and
   motion-limited MRV.
   High signal intensity within the occipital and parietal lobes
   bilaterally on
   the ADC map suggests T2 shine-through/vasogenic edema, and would be
   consistent
   with a diagnosis of PRES. No gross venous sinus thrombosis is
   identified,
   though again this is limited by motion.
   2. Old infarct within the right cerebellar hemisphere.
   Microbiology: urine cx ngtd
   Assessment and Plan
   45 yom with h/o etoh abuse and seizures admitted after a seizure,
   initially stabilzed in the ICU, called out to the floor, where became
   increasingly delirious.
   .
    # Etoh abuse - Had been stabilized earlier in hospital course,
   however, increasingly delirious, tachycardic, and diaphoretic, c/w
   withdrawal.
   - received 150mg IV diazepam standing, 60 breakthrough
   - patient much less agitated today and oriented times 3
   - switch to oral diazepam 15mg IV q4h standing, and 10mg PO q2h
   - thiamine oral
   - folate oral
   .
   # Delirium - given risk factors, ie, chronic appearing subdural
   hematomas on CT head.
   - repeat CT head shows ? PRES syndrome possibly related to changes in
   blood pressure vs. thrombosis
   - cx urine ngtd
   - MRI not optimal but negative for thrombosis
   - EEG result unremarkable
    .
   # HTN
   - switch to hydralazine PO prn
   .
   # Thrombocytopenia - [**Month (only) 51**] be from chronic alcohol use and HSM, although
   spleen difficult to palpate on my exam. Will check LFTs and if elevated
   would get abdominal imaging to evaluate further.
   - stable
   .
   # Elevated LFTs - immunized against Hep B, no evidence active infection
   -          trending downwards
    .
   # FEN
 advance diet today to ful liquids, d/c PICC request if pt.
   improving
   # Restraints- continue with 2 point restraints until pt. confirmed to
   be taking PO
s and CIWA scale low
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2149-4-9**] 02:15 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  FULL
   Disposition: ICU for now, floor tomorrow if continues to improve

2149-04-10 10:44:00 Physician Attending Progress Note
Chief Complaint: etoh withdrawal/dts
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   45 yo M w/chronic EtOH abuse and h/o EtOH w/d szs in ICU with etoh
   withdrawal/delirium
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2149-4-9**] 03:45 PM
   Attempted w/ a total of 30 mg valium iv given while in MRI in an effort
   to obtain [**Location (un) **]. However, unable to obtain MRI d/t severe agitation
   and uncooperativeness of pt. MICE intern/resident made aware.  Team
   will f/u w/ neuro.
   MRI suboptimal [**12-28**] movement, no clear evidence of sinus thrombosis
   210 mg IV (standing Q 2 + PRN)
   hydral d/c'd, 1 dose enalopril
   History obtained from Patient, HO
   Patient unable to provide history: Language barrier, delirius
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2149-4-9**] 04:00 PM
   Famotidine (Pepcid) - [**2149-4-9**] 07:39 PM
   Diazepam (Valium) - [**2149-4-10**] 08:24 AM
   Other medications:
   pre [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-4-10**] 10:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.8
   HR: 99 (83 - 135) bpm
   BP: 142/100(108) {120/50(68) - 200/168(176)} mmHg
   RR: 20 (17 - 27) insp/min
   SpO2: 100% (RA)
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
                  Total In:
                                                                  2,788 mL
                                                                    100 mL
   PO:
                  100 mL
   TF:
   IVF:
                                                                  2,788 mL
   Blood products:
   Total out:
                                                                    845 mL
                                                                    300 mL
   Urine:
                                                                    845 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,943 mL
                                                                   -200 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress, calmer
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed, non focal
   Labs / Radiology
   12.3 g/dL
   149 K/uL
   90 mg/dL
   0.9 mg/dL
   20 mEq/L
   3.2 mEq/L
   11 mg/dL
   101 mEq/L
   138 mEq/L
   36.1 %
   4.5 K/uL
        [image002.jpg]
                             [**2149-4-6**]  05:30 AM
                             [**2149-4-8**]  08:18 AM
                             [**2149-4-8**]  06:22 PM
                             [**2149-4-9**]  08:03 AM
                             [**2149-4-10**]  08:07 AM
   WBC
   3.8
   4.6
   4.9
   4.5
   Hct
   36.0
   42.8
   44.0
   36.1
   Plt
   51
   87
   116
   149
   Cr
   0.8
   0.8
   0.7
   0.9
   Glucose
   88
   94
   97
   90
   Other labs: PT / PTT / INR:12.3/21.1/1.0, ALT / AST:93/122, Alk Phos /
   T Bili:119/1.6, Differential-Neuts:71.7 %, Lymph:23.0 %, Mono:4.0 %,
   Eos:1.0 %, Albumin:5.0 g/dL, LDH:406 IU/L, Ca++:9.7 mg/dL, Mg++:1.6
   mg/dL, PO4:3.4 mg/dL
   Imaging: CXR--clear, no focal inf, rotated
   Microbiology: u/a neg, cx ngtd
   Assessment and Plan
   45 yo M w/chronic EtOH abuse and h/o EtOH w/d szs in ICU with etoh
   withdrawal/delirium
   # EtOH withdrawal/delirium
   Calmer, tacchycardia and htn improved
   Transiiton to PO vslium standing and prn
   PO thiamine and folate, mvi
   EEG without evidence of sz focus
   # HTN
[**12-28**] etoh withdrawal but also with possible essential htn
   ? Pres on head CT
   Imporved control with enalopril, prn meds
   # ? sinus thrombosis on head ct, not evident on initial ct head at time
   of admit
   MRI brain poor quality but no clear evidence of
   Appreciate neuro input
   #Low grade temp, wbc ct remains stable
   u/a cxr unremarkable
   blood cx if spikes
   #Transaminitis:
   Likely related to EtOH
   trending down, follow
   #Pancytopenia:
   Likely [**12-28**] chronic EtOH abuse (macrocytosis, low retic count).
   Counts remain stable to improved
   #FEN:
   Advanceinmg diet eith supervision
   Continue maintenance IVF with bolus for u/o tachy
   Aspiration risk, keep HOB elevated
   ICU Care
   Nutrition:
   Comments: advance diet as tolerated with supervision
   Glycemic Control:  Regular insulin sliding scale
   Lines:  piv if able, or PICC
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2149-04-11 07:25:00 Physician Resident Progress Note
Chief Complaint: 45 yo M w/chronic EtOH abuse and h/o EtOH w/d szs in
   ICU with etoh withdrawal/delirium
   24 Hour Events:
 CALLED OUT
   - received standing doses of PO diazepam (10mg q4H) and only 1
   breakthrough dose (10IV q2prn) . Overall his mental status and
   orientation continue to improve, he has significant bruising at left
   arm so I put him in for x-ray in the morning since he has some
   tenderness.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2149-4-10**] 08:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-4-11**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98.1
   HR: 73 (69 - 117) bpm
   BP: 134/86(98) {101/69(77) - 162/102(119)} mmHg
   RR: 20 (9 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,000 mL
                                                                    580 mL
   PO:
                                                                    390 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  1,610 mL
                                                                    400 mL
   Blood products:
   Total out:
                                                                  1,184 mL
                                                                    488 mL
   Urine:
                                                                  1,184 mL
                                                                    488 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    816 mL
                                                                     92 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   174 K/uL
   12.3 g/dL
   104 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.4 mEq/L
   10 mg/dL
   103 mEq/L
   136 mEq/L
   36.7 %
   4.2 K/uL
        [image002.jpg]
                             [**2149-4-6**]  05:30 AM
                             [**2149-4-8**]  08:18 AM
                             [**2149-4-8**]  06:22 PM
                             [**2149-4-9**]  08:03 AM
                             [**2149-4-10**]  08:07 AM
                             [**2149-4-11**]  02:00 AM
   WBC
   3.8
   4.6
   4.9
   4.5
   4.2
   Hct
   36.0
   42.8
   44.0
   36.1
   36.7
   Plt
   51
   87
   116
   149
   174
   Cr
   0.8
   0.8
   0.7
   0.9
   0.8
   Glucose
   88
   94
   97
   90
   104
   Other labs: PT / PTT / INR:12.3/21.1/1.0, ALT / AST:62/67, Alk Phos / T
   Bili:93/1.3, Differential-Neuts:71.7 %, Lymph:23.0 %, Mono:4.0 %,
   Eos:1.0 %, Albumin:4.1 g/dL, LDH:290 IU/L, Ca++:9.1 mg/dL, Mg++:1.9
   mg/dL, PO4:3.5 mg/dL
   Imaging: Humerus XR: pending
   CXR: [**4-10**]: lungs clear
   Microbiology: Urine [**4-9**]: NGTD
   Assessment and Plan
   45 yo M w/chronic EtOH abuse and h/o EtOH w/d szs in ICU with etoh
   withdrawal/delirium
   # ETOH withdrawl: on standing valium, only needing one breakthru dose
   over the last 24H
   -consider spacing standing dose to q6-8H with breakthru
   -continue po thiamine, MVI, folate
   # Delirium: toxic-metabolic work up unrevealing.  DDX includes alcohol
   withdrawl vs. PRES (on MRI).
   -Continue to manage alcohol withdrawl
   -Aggressive blood pressure control if he becomes hypertensive,
   currently normotensive.  Prefer enalaprat so that tachycardia is not
   masked in the setting of CIWA monitoring
   # UTI: enterococcal
   -amoxacillin
   # elevated liver enzymes: overall improving
   -continue to monitor
   ICU Care
   Nutrition:
   Comments: Advance as tolerated
   Glycemic Control:  Comments: Not needed
   Lines:
   22 Gauge - [**2149-4-11**] 01:40 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2149-04-11 11:50:00 Physician Attending Progress Note
Chief Complaint: etoh w/d
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   45 yo M w/chronic EtOH abuse and h/o EtOH w/d szs in ICU with etoh
   withdrawal/delirium
   24 Hour Events:
   Less agitated
   taking Po valium15 q 4
1 additional prn dose of 10 mg overnight
   History obtained from Patient, ho
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2149-4-11**] 11:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98
   HR: 75 (69 - 117) bpm
   BP: 122/80(90) {101/69(77) - 162/102(119)} mmHg
   RR: 17 (9 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,000 mL
                                                                    640 mL
   PO:
                                                                    390 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,610 mL
                                                                    400 mL
   Blood products:
   Total out:
                                                                  1,184 mL
                                                                    488 mL
   Urine:
                                                                  1,184 mL
                                                                    488 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    816 mL
                                                                    152 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   normal
   Labs / Radiology
   12.3 g/dL
   174 K/uL
   93 mg/dL
   0.7 mg/dL
   19 mEq/L
   4.4 mEq/L
   7 mg/dL
   107 mEq/L
   136 mEq/L
   36.7 %
   4.2 K/uL
        [image002.jpg]
                             [**2149-4-6**]  05:30 AM
                             [**2149-4-8**]  08:18 AM
                             [**2149-4-8**]  06:22 PM
                             [**2149-4-9**]  08:03 AM
                             [**2149-4-10**]  08:07 AM
                             [**2149-4-11**]  02:00 AM
                             [**2149-4-11**]  07:30 AM
   WBC
   3.8
   4.6
   4.9
   4.5
   4.2
   Hct
   36.0
   42.8
   44.0
   36.1
   36.7
   Plt
   51
   87
   116
   149
   174
   Cr
   0.8
   0.8
   0.7
   0.9
   0.8
   0.7
   Glucose
   88
   94
   97
   90
   104
   93
   Other labs: PT / PTT / INR:12.3/21.1/1.0, ALT / AST:57/55, Alk Phos / T
   Bili:101/0.9, Differential-Neuts:71.7 %, Lymph:23.0 %, Mono:4.0 %,
   Eos:1.0 %, Albumin:4.3 g/dL, LDH:332 IU/L, Ca++:9.2 mg/dL, Mg++:1.9
   mg/dL, PO4:3.5 mg/dL
   Imaging: humerus xray-neg for fx
   Microbiology: urine [**4-9**] enterococcus > 100,000
   Assessment and Plan
   45 yo M w/chronic EtOH abuse and h/o EtOH w/d szs in ICU with etoh
   withdrawal/delirium
   # EtOH withdrawal
   # delirium
   Repeat chead CT / MR with ? pres
BO well controlled
   tachycardia and htn improved
   Taper valium slowly
> 15 mg Q 8
   Add Haldol for agitation
   PO thiamine, folate, mvi
   # HTN
[**12-28**] etoh withdrawal but also w/ ?essential htn
   Well controlled with benzos
   #UTI
   Enterococcus
>amoxicillin, f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 270**]
   Has Condom cath
   # ? sinus thrombosis on head ct, not evident on initial ct head at
   admit
   MRI brain poor quality but no clear evidence of  thrombis
   #Transaminitis:
   Likely related to EtOH
   trending down
   #FEN:
   Advancing diet w/ supervision
   Aspiration risk, keep HOB elevated
   ICU Care
   Nutrition: advance diet
   Glycemic Control:
   Lines:
   22 Gauge - [**2149-4-11**] 01:40 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :stable transfer to floor
   Total time spent: 40 minutes